US06844345B2
d) 7-Trifluoromethoxy-1H-indole
Potassium hydroxide (17.9 g, 321 mmol) was boiled for 2 h in t-butanol (500 mL). (2-Trifluoromethoxy-6-trimethylsilanylethynyl-phenyl)-carbamic acid ethyl ester (52.8 g, 153 mmol) dissolved in t-butanol (500 mL) was added and boiling was continued for 2 h. The solvent was removed in vacuo and the residue was partitioned between diethyl ether and water. The organic phases were washed with brine, pooled and dried with MgSO4. Evaporation of the solvent yielded 31.8 g of brownish oil, which was purified by chromatography on silica gel with hexane/ethylacetate (9:1). This yielded the title compound, (30.2 g, 98%) as a yellow oil. (EI-MS: m/e=201.0 (M+)).

reactant | Potassium hydroxide | 321 mmol, 17.9 g | [OH-].[K+]
reactant | (2-Trifluoromethoxy-6-trimethylsilanylethynyl-phenyl)-carbamic acid ethyl ester | 153 mmol, 52.8 g | C(C)OC(NC1=C(C=CC=C1C#C[Si](C)(C)C)OC(F)(F)F)=O | C15H18F3NO3Si
solvent | t-butanol | 500 mL | C(C)(C)(C)O | C4H10O
solvent | t-butanol | 500 mL | C(C)(C)(C)O | C4H10O
product | 7-Trifluoromethoxy-1H-indole | 31.8 g | FC(OC=1C=CC=C2C=CNC12)(F)F | C9H6F3NO
